US06211196B1
a) 2,6-Dimethoxy-3-nitrotoluene
11.62 g (76.45 mmol) of 2,6-dimethoxytoluene were introduced in portions into 40 ml of concentrated nitric acid cooled to 0° C. After stirring at 0° C. for 15 min, the reaction solution was poured onto 250 ml of ice and extracted 3× with EA. The combined EA extracts were dried over Na2SO4, the solvent was removed in vacuo, and the brown oily residue was purified by means of column chromatography on SiO2 (EA/heptane 1:8). 8.59 g of the title compound were isolated in the form of a red oil.

reactant | 2,6-dimethoxytoluene | 76.45 mmol, 11.62 g | COC1=C(C(=CC=C1)OC)C | C9H12O2
reactant | nitric acid | 40 ml | [N+](=O)(O)[O-] | HNO3
product | 2,6-Dimethoxy-3-nitrotoluene | 8.59 g | COC1=C(C(=CC=C1[N+](=O)[O-])OC)C | C9H11NO4
